US04154837
2-Methyl-3-[4-(2-hydroxy-3-isopropylamino-propoxy)-phenethyl]-7-methoxy-isoquinolin-1(2H)-one was prepared analogous to Example 1b from 2-methyl-3-[4-(2,3-epoxypropoxy)-phenethyl]-7-methoxy-isoquinolin-1(2H)-one and isopropylamine.

reactant | 2-methyl-3-[4-(2,3-epoxypropoxy)-phenethyl]-7-methoxy-isoquinolin-1(2H)-one | CN1C(C2=CC(=CC=C2C=C1CCC1=CC=C(C=C1)OCC1CO1)OC)=O | C22H23NO4
reactant | isopropylamine | C(C)(C)N | C3H9N
product | 2-Methyl-3-[4-(2-hydroxy-3-isopropylamino-propoxy)-phenethyl]-7-methoxy-isoquinolin-1(2H)-one | Yield: 77% | CN1C(C2=CC(=CC=C2C=C1CCC1=CC=C(C=C1)OCC(CNC(C)C)O)OC)=O | C25H32N2O4
